US09302989B2
2-((4-fluorobenzyl)(4-(pyridin-3-yl)benzyl)amino)thiazole-5-carboxylic acid
In a 250 mL round-bottomed flask was added methyl 2-(4-(pyridin-3-yl)benzylamino)thiazole-5-carboxylate (3 g, 9.22 mmol) and 1-(bromomethyl)-4-fluorobenzene (1.264 ml, 10.14 mmol) in dimethylformamide (46.1 ml). The mixture was cooled to 0° C., sodium hydride (0.738 g, 18.44 mmol) was added carefully; and the mixture was warmed to room temperature. After the mixture was stirred for about 30 minutes, it was found to be predominantely carboxylic acid. 1 N NaOH was added to complete the conversion; and a water work up followed by chromatography provided the title compound.

reactant | methyl 2-(4-(pyridin-3-yl)benzylamino)thiazole-5-carboxylate | 9.22 mmol, 3 g | N1=CC(=CC=C1)C1=CC=C(CNC=2SC(=CN2)C(=O)OC)C=C1 | C17H15N3O2S
reactant | 1-(bromomethyl)-4-fluorobenzene | 10.14 mmol, 1.264 ml | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | sodium hydride | 18.44 mmol, 0.738 g | [H-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dimethylformamide | 46.1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-((4-fluorobenzyl)(4-(pyridin-3-yl)benzyl)amino)thiazole-5-carboxylic acid | FC1=CC=C(CN(C=2SC(=CN2)C(=O)O)CC2=CC=C(C=C2)C=2C=NC=CC2)C=C1 | C23H18FN3O2S
